US05502073
A solution of 5-t-butyl-2-(4-ethoxycarbonylcyclohexyl)-2-methyl-1,3-dithiane (0.76 g.) in dry ether (10 ml.) was added, with stirring, to a suspension of lithium aluminium hydride (142 mg.) in dry ether (15 ml.) under nitrogen at 0° C. After allowing to warm to 25° C. the reaction mixture was stirred for 2 hours. Aqueous sodium hydroxide solution was then added (1.25 ml. of a 10% solution). The ether solution was decanted and the residue washed with 2×25 ml. portions of ether. After drying over anhydrous magnesium sulphate the solvent was removed under reduced pressure to give 5-t-butyl-2-(4-hydroxymethylcyclohexyl)-2-methyl-1,3-dithiane.

reactant | 5-t-butyl-2-(4-ethoxycarbonylcyclohexyl)-2-methyl-1,3-dithiane | 0.76 g | C(C)(C)(C)C1CSC(SC1)(C)C1CCC(CC1)C(=O)OCC | C18H32O2S2
reactant | lithium aluminium hydride | 142 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
product | 5-t-butyl-2-(4-hydroxymethylcyclohexyl)-2-methyl-1,3-dithiane | C(C)(C)(C)C1CSC(SC1)(C)C1CCC(CC1)CO | C16H30OS2
